US05824691
A mixture of methyl 3-formyl-5-(pyrrol-1-yl)benzoate (1.66 g), 2-aminoethanol (0.88 ml) and molecular sieves 4A (1.7 g) in methanol (40 ml) was stirred for 6 hours at room temperature. Then, to the reaction mixture was added sodium borohydride (0.55 g). After stirring for 3 hours at room temperature, the reaction mixture was poured into saturated aqueous sodium hydrogencarbonate solution and filtered. The filtrate was evaporated in vacuo and the residue was purified by column chromatography on silica gel eluting with a mixture of chloroform and methanol (20:1). The eluted fractions containing the desired product were collected and evaporated in vacuo to give methyl 3-(2-hydroxyethylaminomethyl)-5-(pyrrol-1-yl)benzoate (0.80 g).

reactant | methyl 3-formyl-5-(pyrrol-1-yl)benzoate | 1.66 g | C(=O)C=1C=C(C(=O)OC)C=C(C1)N1C=CC=C1 | C13H11NO3
reactant | 2-aminoethanol | 0.88 ml | NCCO | C2H7NO
reactant | sodium borohydride | 0.55 g | [BH4-].[Na+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 40 ml | CO | CH4O
product | methyl 3-(2-hydroxyethylaminomethyl)-5-(pyrrol-1-yl)benzoate | 0.80 g | OCCNCC=1C=C(C(=O)OC)C=C(C1)N1C=CC=C1 | C15H18N2O3
